US07432266B2
Into a vial was added 4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzoic acid (50.0 mg, 0.127 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (30.2 mg, 0.158 mmol), 4-dimethylaminopyridine (19.3 mg, 0.158 mmol), 4-methoxybenzenesulphonamide (29.5 mg, 0.158 mmol) and 2 mL of methylene chloride. The reaction was stirred overnight at room temperature, poured into 10 mL of water and 10 mL of ethyl acetate and the pH of the aqueous layer was adjusted to pH˜6 by adding saturated aqueous NaHCO3. The organic layer was dried over sodium sulfate, filtered and approximately 1 g of silica gel was added and the mixture was evaporated to dryness under reduced pressure. The residue was purified by column chromatography on silica gel using a gradient elution going from 0% to 10% methanol in dichloromethane over 20 minutes to give N-[(4-methoxyphenyl)sulfonyl]-4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzamide (53 mg, 74%) as a yellow foam. LC/MS (EI) tR 5.22 (Method C), m/z 564.2 (M++1). 1H NMR (CDCl3 300 MHz) δ 1.8-2.0 (m, 2H); 2.6 (br s, 2H); 3.6 (m, 2H); 3.8 (m, 2H); 3.9 (s, 3H); 4.4 (br s, 1H); 5.2 (s, 2H); 6.3 (s, 1H); 6.4 (s, 1H); 6.9 (m, 3H); 7.2-7.6 (m, 3H); 7.7 (t, 2H); 7.8 (d, 2H); 7.9 (d, 2H).

reactant | 4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzoic acid | 0.127 mmol, 50.0 mg | COC1=C(C=C(C=C1)C1=CC=NN1CC1=CC=C(C(=O)O)C=C1)O[C@H]1COCC1 | C22H22N2O5
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.158 mmol, 30.2 mg | Cl.CN(CCCN=C=NCC)C
reactant | 4-methoxybenzenesulphonamide | 0.158 mmol, 29.5 mg | COC1=CC=C(C=C1)S(=O)(=O)N | C7H9NO3S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | 4-dimethylaminopyridine | 0.158 mmol, 19.3 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | N-[(4-methoxyphenyl)sulfonyl]-4-[(5-{4-methoxy-3-[(3R)-tetrahydrofuran-3-yloxy]phenyl}-1H-pyrazol-1-yl)methyl]benzamide | 53 mg, 74% | COC1=CC=C(C=C1)S(=O)(=O)NC(C1=CC=C(C=C1)CN1N=CC=C1C1=CC(=C(C=C1)OC)O[C@H]1COCC1)=O | C29H29N3O7S
